US07678801B2
14c) 6-chloro-N-{3-[8-(2,6-difluorophenyl)-7-oxo-2-(4-piperidinylamino)-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-3-pyridinecarboxamide
The title compound was prepared as described in Example 2 from 6-chloro-N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-3-pyridinecarboxamide and 1,1-dimethylethyl 4-amino-1-piperidinecarboxylate: LC-MS m/z 602 (M+H)+, 1.75 min (ret time).

reactant | 6-chloro-N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=CC(=C(C=C1)C)C=1C2=C(N=C(N1)S(=O)(=O)C)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C27H18ClF2N5O4S
reactant | 1,1-dimethylethyl 4-amino-1-piperidinecarboxylate | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
product | 6-chloro-N-{3-[8-(2,6-difluorophenyl)-7-oxo-2-(4-piperidinylamino)-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=CC(=C(C=C1)C)C=1C2=C(N=C(N1)NC1CCNCC1)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C31H26ClF2N7O2
